US05356886
To a solution of (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyl]adenine (111 mg, 314 μmol) in dichloromethane (6 ml) was added bromotrimethylsilane (0.9 g, 6.28 mmol) and the mixture was stirred at room temperature under dry nitrogen for 18 hr. The solution was evaporated to dryness and the residue azeotroped with methanol (×3). The residue was purified by column chromatography on reverse phase silica gel eluting with water to give (E)-9-(4-phosphonobut-3-enyl)adenine as a white solid (69 mg, 81%), m.p. 263°-266° C.; λmax (MeOH) 261 (10,810)nm; υmax (KBr) 3360, 3095, 1685, 1605, 1520, 1415,and 1228 cm-1 ; δH (D2O +one drop of NH4OH solution) 2.63 (2H, m, CH2), 4.31 (2H, t, J 7 Hz, CH2N), 5.72 (1H, pseudo-t, J 17 Hz, PCH =CH), 6.14 (1H, pseudo-tt, J 7 Hz and 17 Hz, PCH=CH), 8.13 (1H, s, H-2/H-8), 8.19 (1H, s, H-2/H-8); FABMS (thioglycerol) 270 (MH+) (Found: C, 37.29; H, 4.38; N, 24.09%. C9H12N5O3P.0.25HBr requires C, 37.35; H, 4.27; N, 24.20%).

reactant | (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyl]adenine | 314 μmol, 111 mg | C(C)(C)OP(=O)(OC(C)C)/C=C/CCN1C2=NC=NC(=C2N=C1)N | C15H24N5O3P
reactant | bromotrimethylsilane | 6.28 mmol, 0.9 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (E)-9-(4-phosphonobut-3-enyl)adenine | 69 mg, 81% | P(=O)(O)(O)/C=C/CCN1C2=NC=NC(=C2N=C1)N | C9H12N5O3P
